US06566364B2
4-[2-(p-Methylsulphonylphenoxy)ethyl]piperidine
The product is obtained according to the procedure of Preparation 1 using 2-(N-tert-butyloxycarbonyl-4-piperidyl)ethanol and p-methylsulphonylphenol in Step 1.

reactant | 2-(N-tert-butyloxycarbonyl-4-piperidyl)ethanol | C(C)(C)(C)OC(=O)N1CCC(CC1)CCO | C12H23NO3
reactant | p-methylsulphonylphenol | CS(=O)(=O)C1=CC=C(C=C1)O | C7H8O3S
product | 4-[2-(p-Methylsulphonylphenoxy)ethyl]piperidine | CS(=O)(=O)C1=CC=C(OCCC2CCNCC2)C=C1 | C14H21NO3S
